US04010177
In the manner given in Preparation 48, 8-chloro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine, potassium iodide, and morpholine in tetrahydrofuran are reacted to give 8-chloro-1-(morpholinomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-chloro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1 | C17H11Cl3N4
reactant | potassium iodide | [I-].[K+]
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-chloro-1-(morpholinomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN3CCOCC3)C3=C(C=CC=C3)Cl)C1 | C21H19Cl2N5O
